US07319124B2
Synthesis of 1,6-bis(tert-butylaminotrisulphanyl)hexane
70.0 ml (736 mmol) of tert-butylamine are used as initial charge in 1,2-dichloroethane in an inertized three-necked flask with dropping funnel, reflux condenser with hose coupling at its upper end, a tap with hose coupling and a Teflon stirrer bar, in a countercurrent of argon. 10.2 g (29.3 mmol) of 1,6-bis(chlorotrisulphanyl)hexane in 50 ml of 1,2-dichloroethane are then added dropwise, with stirring. The reaction mixture is stirred at room temperature for 4 hours. The resultant salt is filtered off, and the organic phase is washed three times with water and dried over sodium sulphate. After removal of the solvent on a rotary evaporator and drying in the vacuum generated by a rotary-vane pump, 1,6-bis(tert-butylaminotrisulphanyl)hexane precipitates in the form of a yellow oil. The crude yield is 11.9 g (97%). Elemental analysis was carried out on the crude product.

reactant | tert-butylamine | 736 mmol, 70.0 ml | C(C)(C)(C)N | C4H11N
reactant | 1,6-bis(chlorotrisulphanyl)hexane | 29.3 mmol, 10.2 g | ClSSSCCCCCCSSSCl | C6H12Cl2S6
solvent | 1,2-dichloroethane | ClCCCl | C2H4Cl2
solvent | 1,2-dichloroethane | 50 ml | ClCCCl | C2H4Cl2
product | 1,6-bis(tert-butylaminotrisulphanyl)hexane | C(C)(C)(C)NSSSCCCCCCSSSNC(C)(C)C | C14H32N2S6
